US06492416B1
To a solution of 2,2-dimethyl-5-{4-(methylsulfinyl)phenyl}-3(2H)-furanone (135 mg) in 25 ml of CCl4, were added 1 ml acetic acid and 0.1 ml bromine. The reaction mixture was stirred at room temperature for 2.5 hr. Then the reaction was quenched by adding 10 ml of saturated aqueous sodium thiosulfate. The volatile materials were removed in vacuo, which was followed by extraction with dichloromethane (50 ml×3). The organic layer was dried over anhydrous magnesium sulfate and the magnesium sulfate was filtered off. The filtrate was concentrated in vacuo and the crude product was purified by column chromatography (hexane/ethylacetate=1:1) to give 68 mg of 4-bromo-2,2-dimethyl-5-{4-(methylsulfinyl)phenyl}-3(2H)-furanone. mp: 117-118° C. NMR: δ1.55 (s, 6H), 2.79 (s, 3H), 7.81 (d, J=8.2 Hz, 2H), 8.38 (d, J=8.2 Hz, 2H). IR (cm−1): 1706, 1601,1555, 1191, 1052.

reactant | 2,2-dimethyl-5-{4-(methylsulfinyl)phenyl}-3(2H)-furanone | 135 mg | CC1(OC(=CC1=O)C1=CC=C(C=C1)S(=O)C)C | C13H14O3S
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | bromine | 0.1 ml | BrBr | Br2
solvent | CCl4 | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-bromo-2,2-dimethyl-5-{4-(methylsulfinyl)phenyl}-3(2H)-furanone | 68 mg | BrC=1C(C(OC1C1=CC=C(C=C1)S(=O)C)(C)C)=O | C13H13BrO3S
